** sch_path: /foss/designs/CAD5/SHIFT.sch
.subckt SHIFT Sh1 Sh1b A0 A1 A2 A3 A4 A5 A6 A7 A8 A9 A10 A11 A12 A13 A14 A15 OUT0 OUT1 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7 OUT8 OUT9
+ OUT10 OUT11 OUT12 OUT13 OUT14 OUT15 Sh2 Sh2b Sh4 Sh4b Sh8 Sh8b
*.PININFO Sh1:I Sh1b:I A0:I A1:I A2:I A3:I A4:I A5:I A6:I A7:I A8:I A9:I A10:I A11:I A12:I A13:I A14:I A15:I OUT0:O OUT1:O OUT2:O
*+ OUT3:O OUT4:O OUT5:O OUT6:O OUT7:O OUT8:O OUT9:O OUT10:O OUT11:O OUT12:O OUT13:O OUT14:O OUT15:O Sh2:I Sh2b:I Sh4:I Sh4b:I Sh8:I Sh8b:I
x1 Sh1b Sh1 A0 GND net9 1BIT
x2 Sh1b Sh1 A1 A0 net10 1BIT
x3 Sh1b Sh1 A2 A1 net11 1BIT
x4 Sh1b Sh1 A3 A2 net12 1BIT
x5 Sh1b Sh1 A4 A3 net13 1BIT
x6 Sh1b Sh1 A5 A4 net14 1BIT
x7 Sh1b Sh1 A6 A5 net15 1BIT
x8 Sh1b Sh1 A7 A6 net16 1BIT
x9 Sh1b Sh1 A8 A7 net17 1BIT
x10 Sh1b Sh1 A9 A8 net18 1BIT
x11 Sh1b Sh1 A10 A9 net19 1BIT
x12 Sh1b Sh1 A11 A10 net20 1BIT
x13 Sh1b Sh1 A12 A11 net21 1BIT
x14 Sh1b Sh1 A13 A12 net22 1BIT
x15 Sh1b Sh1 A14 A13 net23 1BIT
x16 Sh1b Sh1 A15 A14 net24 1BIT
x17 Sh2b Sh2 net9 GND net25 net26 GND net10 2BIT
x18 Sh2b Sh2 net11 net9 net27 net28 net10 net12 2BIT
x19 Sh2b Sh2 net13 net11 net29 net30 net12 net14 2BIT
x20 Sh2b Sh2 net15 net13 net31 net32 net14 net16 2BIT
x21 Sh2b Sh2 net17 net15 net33 net34 net16 net18 2BIT
x22 Sh2b Sh2 net19 net17 net35 net36 net18 net20 2BIT
x23 Sh2b Sh2 net21 net19 net37 net38 net20 net22 2BIT
x24 Sh2b Sh2 net23 net21 net39 net40 net22 net24 2BIT
x25 Sh4b Sh4 GND net25 net41 net43 net42 net44 GND net26 GND net27 GND net28 4BIT
x26 Sh4b Sh4 net25 net29 net45 net46 net47 net48 net26 net30 net27 net31 net28 net32 4BIT
x27 Sh4b Sh4 net29 net33 net49 net51 net50 net52 net30 net34 net31 net35 net32 net36 4BIT
x29 Sh4b Sh4 net33 net37 net53 net54 net55 net56 net34 net38 net35 net39 net36 net40 4BIT
x28 Sh8b Sh8 net41 GND net1 net2 net3 net4 net43 GND GND net42 GND net44 net45 GND net5 net6 net7 net8 GND net46 GND net47 GND
+ net48 8BIT
x30 Sh8b Sh8 net49 net41 OUT8 OUT9 OUT10 OUT11 net51 net43 net42 net50 net44 net52 net53 net45 OUT12 OUT13 OUT14 OUT15 net46 net54
+ net47 net55 net48 net56 8BIT
x31 OUT0 net1 BUF
x32 OUT2 net3 BUF
x33 OUT3 net4 BUF
x34 OUT1 net2 BUF
x35 OUT4 net5 BUF
x36 OUT5 net6 BUF
x37 OUT6 net7 BUF
x38 OUT7 net8 BUF
.ends

* expanding   symbol:  1BIT.sym # of pins=5
** sym_path: /foss/designs/CAD5/1BIT.sym
** sch_path: /foss/designs/CAD5/1BIT.sch
.subckt 1BIT Shb Sh Ax IN0 OUT
*.PININFO Sh:I Shb:I OUT:O Ax:I IN0:I
M2 OUT Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  2BIT.sym # of pins=8
** sym_path: /foss/designs/CAD5/2BIT.sym
** sch_path: /foss/designs/CAD5/2BIT.sch
.subckt 2BIT Shb Sh Ax IN0 OUT0 OUT1 IN1 Ax-1
*.PININFO Sh:I Shb:I OUT0:O Ax:I IN0:I Ax-1:I IN1:I OUT1:O
M2 OUT0 Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT0 Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT1 Sh IN1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M4 OUT1 Shb Ax-1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  4BIT.sym # of pins=14
** sym_path: /foss/designs/CAD5/4BIT.sym
** sch_path: /foss/designs/CAD5/4BIT.sch
.subckt 4BIT Shb Sh IN0 Ax OUT0 OUT1 OUT2 OUT3 IN1 Ax-1 IN2 Ax-2 IN3 Ax-3
*.PININFO Sh:I Shb:I OUT0:O Ax:I IN0:I Ax-1:I IN1:I OUT1:O Ax-2:I IN2:I Ax-3:I IN3:I OUT2:O OUT3:O
M2 OUT0 Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT0 Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT1 Sh IN1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M4 OUT1 Shb Ax-1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M5 OUT2 Sh IN2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M6 OUT2 Shb Ax-2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M7 OUT3 Sh IN3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M8 OUT3 Shb Ax-3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  8BIT.sym # of pins=26
** sym_path: /foss/designs/CAD5/8BIT.sym
** sch_path: /foss/designs/CAD5/8BIT.sch
.subckt 8BIT Shb Sh Ax IN0 OUT0 OUT1 OUT2 OUT3 Ax-1 IN1 IN2 Ax-2 IN3 Ax-3 Ax-4 IN4 OUT4 OUT5 OUT6 OUT7 IN5 Ax-5 IN6 Ax-6 IN7 Ax-7
*.PININFO Sh:I Shb:I OUT0:O Ax:I IN0:I Ax-1:I IN1:I OUT1:O Ax-2:I IN2:I Ax-3:I IN3:I OUT2:O OUT3:O OUT4:O Ax-4:I IN4:I Ax-5:I
*+ IN5:I OUT5:O Ax-6:I IN6:I Ax-7:I IN7:I OUT6:O OUT7:O
M2 OUT0 Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT0 Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT1 Sh IN1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M4 OUT1 Shb Ax-1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M5 OUT2 Sh IN2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M6 OUT2 Shb Ax-2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M7 OUT3 Sh IN3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M8 OUT3 Shb Ax-3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M9 OUT4 Sh IN4 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M10 OUT4 Shb Ax-4 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M11 OUT5 Sh IN5 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M12 OUT5 Shb Ax-5 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M13 OUT6 Sh IN6 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M14 OUT6 Shb Ax-6 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M15 OUT7 Sh IN7 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M16 OUT7 Shb Ax-7 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  BUF.sym # of pins=2
** sym_path: /foss/designs/CAD5/BUF.sym
** sch_path: /foss/designs/CAD5/BUF.sch
.subckt BUF OUT IN
*.PININFO IN:I OUT:O
M1 net1 IN VDD VDD pfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net1 IN GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT net1 VDD VDD pfet_03v3 L=0.28u W=1u nf=1 m=1
M4 OUT net1 GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
